US05998436
Synthesis of 8-chloro-1-(3,5-difluoro-6-methoxypyridin-2-yl)-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To a mixed solution of 1 ml of 4N hydrochloric acid and 1 ml of acetic acid was added 385 mg of ethyl 8-chloro-1-(3,5-difluoro-6-methoxypyridin-2-yl)-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate, and the mixture heated under reflux with stirring for 30 minutes. After adding 2 ml of distilled water, the solution was allowed to cool and stand. The precipitate was collected by filtration, and washed with ethanol and diisopropylether successively to obtain 297 mg of the title compound as a colorless powder.

reactant | hydrochloric acid | 4N, 1 ml | Cl | ClH
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | ethyl 8-chloro-1-(3,5-difluoro-6-methoxypyridin-2-yl)-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 385 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)F)OC)C(=O)OCC)=O)F)F | C18H11ClF4N2O4
solvent | water | 2 ml | O | H2O
product | 8-chloro-1-(3,5-difluoro-6-methoxypyridin-2-yl)-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 297 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)F)OC)C(=O)O)=O)F)F | C16H7ClF4N2O4
